US07960562B2
Dess-Martin reagent (15 wt. % dichloromethane solution, 0.73 mL) was added to a dichloromethane (2 mL) solution of N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxypropanimidamide (90 mg), followed by stirring at room temperature for 4 hours. Ethyl acetate was added to the reaction mixture, washed with water, dried over anhydrous magnesium sulfate, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1), and recrystallized from ethyl acetate/n-hexane to obtain N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-oxopropanimidamide (57 mg).

reactant | Dess-Martin reagent | 0.73 mL | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | dichloromethane | 2 mL | ClCCl | CH2Cl2
reactant | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxypropanimidamide | 90 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C(C)O)=N)=C1NC2=C(N1)C=CC=C2)=O | C25H20F2N4O5S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-({3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)-2-oxopropanimidamide | 57 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C(C)=O)=N)=C1NC2=C(N1)C=CC=C2)=O | C25H18F2N4O5S
